US04608374
11-[1-(3-Trifluoromethylbenzyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate
To 50 ml DMF were added 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (6.0 g, 0.022 mole), 3-trifluoromethylbenzyl chloride (5.0 g, 0.026 mole), milled K2CO3 (10 g, 0.07 mole) and KI (0.01 g).

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.022 mole, 6.0 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | 3-trifluoromethylbenzyl chloride | 0.026 mole, 5.0 g | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
reactant | K2CO3 | 0.07 mole, 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 11-[1-(3-Trifluoromethylbenzyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate | C(C(=O)O)(=O)O.FC(C=1C=C(CN2CCC(CC2)C2OC3=C(CN4C2=CC=C4)C=CC=C3)C=CC1)(F)F | InChI=1S/C25H25F3N2O.C2H2O4/c26-25(27,28)21-7-3-5-18(15-21)16-29-13-10-19(11-14-29)24-22-8-4-12-30(22)17-20-6-1-2-9-23(20)31-24;3-1(4)2(5)6/h1-9,12,15,19,24H,10-11,13-14,16-17H2;(H,3,4)(H,5,6)
